US09102591B2
To a stirred suspension of (diethylamino)difluorosulfonium tetrafluoroborate (16.5 g, 72.1 mmol) in DCM (150 mL) at room temperature under nitrogen atmosphere was added 1-(6-chloro-pyridin-3-yl)-4-oxo-cyclohexanecarbonitrile (4.2 g, 18 mmol) followed by triethylamine trihydrofluoride (8.68 g, 53.8 mmol). The reaction mixture was stirred for 6 hours at room temperature. The resulting mixture was then quenched by adding a saturated aqueous solution of sodium bicarbonate, stirred for 10 minutes, and the resulting mixture was extracted with DCM (3×25 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue was purified by column chromatography on silica gel (1:10 to 1:5 AcOEt/hexanes) to afford 1-(6-chloro-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile (2.5 g, 54%). LC-MS (m/z) 257.0 (MH+). 1H NMR (400 MHz, CDCl3) δ ppm 8.56 (d, J=2.2 Hz, 1 H), 7.79 (dd, J=8.4, 2.6 Hz, 1 H), 7.42 (d, J=8.4 Hz, 1 H), 2.09-2.41 (m, 8 H).

reactant | (diethylamino)difluorosulfonium tetrafluoroborate | 72.1 mmol, 16.5 g | F[B-](F)(F)F.C(C)N(CC)[S+](F)F
reactant | 1-(6-chloro-pyridin-3-yl)-4-oxo-cyclohexanecarbonitrile | 18 mmol, 4.2 g | ClC1=CC=C(C=N1)C1(CCC(CC1)=O)C#N | C12H11ClN2O
reactant | triethylamine trihydrofluoride | 53.8 mmol, 8.68 g | F.F.F.C(C)N(CC)CC
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-chloro-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile | 2.5 g, 54% | ClC1=CC=C(C=N1)C1(CCC(CC1)(F)F)C#N | C12H11ClF2N2
